US07230019B2
4-Phenoxyacetophenone was brominated with bromine according to Method A to provide the desired α-bromoacetophenone, which was condensed with 2-amino-13,4,-thiadiazole-5-sulfonamide according to method C, to provide compound 87 as an off white, solid. 1H NMR (200 MHz, DMSO-d6) δ 8.82 (s, 1H), 8.71 (s, 2H), 7.90 (d, J=7.9 Hz, 2H), 7.40 (t, J=7.3 Hz, 2H), 7.07 (t, J=7.3 Hz, 1H), 7.08–7.03 (m, 6H).

reactant | 4-Phenoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC2=CC=CC=C2 | C14H12O2
reactant | bromine | BrBr | Br2
product | α-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
